** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/sky130_ht_ip__hsxo_cpz1.sch
** .subckt sky130_ht_ip__hsxo_cpz1 XOUT XIN ENA STDBY DOUT AVDD DVDD AVSS DVSS IBIAS
*.PININFO DVDD:B DVSS:B AVDD:B AVSS:B ENA:I STDBY:I XIN:I XOUT:O DOUT:O IBIAS:I
x1 XOUT SG_AVDD EG_AVDD XIN EG_IBIAS AOUT SG_AVSS EG_AVSS vittoz_pierce_osc
x2 SG_DVDD AIN DOUT SG_DVSS schmitt_trigger_pullmid
XC1 AOUT AIN sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=6
x3 DOUT SG_AVDD DVDD EG_IBIAS SG_DVDD AVDD IBIAS EG_AVDD ENA SG_DVSS SG_AVSS STDBY EG_AVSS AVSS DVSS XIN power_gating
** .ends

* expanding   symbol:  vittoz_pierce_osc.sym # of pins=8
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/vittoz_pierce_osc.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/vittoz_pierce_osc.sch
.subckt vittoz_pierce_osc XOUT SG_AVDD EG_AVDD XIN EG_IBIAS AOUT SG_AVSS EG_AVSS
*.PININFO EG_AVDD:B EG_AVSS:B SG_AVDD:B SG_AVSS:B XIN:I EG_IBIAS:I XOUT:O AOUT:O
XM9 net6 PBIAS EG_AVDD EG_AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1024 nf=32 m=1
XM10 net7 PBIAS EG_AVDD EG_AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=128 nf=4 m=1
XM11 PBIAS PBIAS EG_AVDD EG_AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=128 nf=4 m=1
Vmeas3 net6 XOUT 0
.save i(vmeas3)
Vmeas4 net7 net1 0
.save i(vmeas4)
Vmeas2 PBIAS net3 0
.save i(vmeas2)
XM12 net1 net2 EG_AVSS EG_AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=128 nf=4 m=1
XR1 net2 net1 EG_AVSS sky130_fd_pr__res_xhigh_po_0p35 L=7 mult=1 m=1
XC1 net1 EG_AVSS sky130_fd_pr__cap_mim_m3_1 W=2 L=2 m=1
XC2 XIN net2 sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=6
XC7 net2 EG_AVSS sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=6
XM13 XOUT XIN EG_AVSS EG_AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=32 nf=8 m=1
XM14 net3 net2 net5 EG_AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1024 nf=32 m=1
XM15 net5 EG_IBIAS EG_AVSS EG_AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=128 nf=4 m=1
XM16 EG_IBIAS EG_IBIAS EG_AVSS EG_AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=8 nf=1 m=1
XR3 XIN XOUT EG_AVSS sky130_fd_pr__res_xhigh_po_0p35 L=2.8 mult=1 m=1
XM17 AOUT XIN SG_AVSS SG_AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4 nf=1 m=1
XM18 net8 PBIAS SG_AVDD SG_AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=128 nf=4 m=1
Vmeas5 net8 AOUT 0
.save i(vmeas5)
XC8 AOUT SG_AVSS sky130_fd_pr__cap_mim_m3_1 W=2 L=2 m=1
XC3 EG_AVDD EG_AVSS sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=6
XC4 SG_AVDD SG_AVSS sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=6
.ends


* expanding   symbol:  schmitt_trigger_pullmid.sym # of pins=5
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/schmitt_trigger_pullmid.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/schmitt_trigger_pullmid.sch
.subckt schmitt_trigger_pullmid SG_DVDD AIN DOUT SG_DVSS
*.PININFO SG_DVDD:B SG_DVSS:B AIN:I DOUT:O
XR3 AIN net1 SG_DVSS sky130_fd_pr__res_xhigh_po_0p35 L=128 mult=1 m=1
XM3 DOUT AIN DHT SG_DVDD sky130_fd_pr__pfet_01v8 L=0.3 W=1 nf=1 m=1
XM4 DOUT AIN DLT SG_DVSS sky130_fd_pr__nfet_01v8 L=0.2 W=1 nf=1 m=1
XM5 DHT AIN SG_DVDD SG_DVDD sky130_fd_pr__pfet_01v8 L=0.3 W=1 nf=1 m=1
XM6 DLT AIN SG_DVSS SG_DVSS sky130_fd_pr__nfet_01v8 L=0.2 W=1 nf=1 m=1
XM7 SG_DVSS DOUT DHT SG_DVDD sky130_fd_pr__pfet_01v8 L=0.3 W=1 nf=1 m=1
XM8 SG_DVDD DOUT DLT SG_DVSS sky130_fd_pr__nfet_01v8 L=0.2 W=1 nf=1 m=1
XC4 SG_DVDD SG_DVSS sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=6
XR1 net1 SG_DVDD SG_DVSS sky130_fd_pr__res_xhigh_po_0p35 L=16 mult=1 m=1
XR2 SG_DVSS net1 SG_DVSS sky130_fd_pr__res_xhigh_po_0p35 L=16 mult=1 m=1
.ends


* expanding   symbol:  power_gating.sym # of pins=17
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/power_gating.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/power_gating.sch
.subckt power_gating DOUT SG_AVDD DVDD EG_IBIAS SG_DVDD AVDD IBIAS EG_AVDD ENA SG_DVSS SG_AVSS STDBY EG_AVSS AVSS DVSS XIN
*.PININFO DVDD:B DVSS:B AVDD:B AVSS:B ENA:I STDBY:I DOUT:O IBIAS:I EG_AVDD:B EG_AVSS:B SG_AVDD:B SG_AVSS:B SG_DVDD:B SG_DVSS:B
*+ EG_IBIAS:O XIN:I
x3 AVDD ENA_B DVDD ENA ENA_H AVSS DVSS ENA_BH level_shifter_xd
x4 AVDD STDBY_B DVDD STDBY STDBY_H AVSS DVSS STDBY_BH level_shifter_xd
XM18 SG_DVSS STDBY_B DVSS DVSS sky130_fd_pr__nfet_01v8 L=0.15 W=32 nf=8 m=1
XM21 EG_AVSS ENA_H AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=32 nf=8 m=1
XM25 EG_AVDD ENA_BH AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=32 nf=8 m=1
XM27 SG_DVDD STDBY DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=32 nf=8 m=1
XM1 SG_AVDD STDBY_H AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=32 nf=8 m=1
XM2 EG_IBIAS ENA_BH IBIAS AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=32 nf=8 m=1
XM3 SG_AVSS STDBY_BH AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=32 nf=8 m=1
XM4 DOUT STDBY DVSS DVSS sky130_fd_pr__nfet_01v8 L=0.15 W=32 nf=8 m=1
XC3 AVDD AVSS sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=6
XC4 DVDD DVSS sky130_fd_pr__cap_mim_m3_1 W=15 L=15 m=6
XD1 XIN AVDD sky130_fd_pr__diode_pd2nw_11v0 area=2e11 perim=4e6
XD2 AVSS XIN sky130_fd_pr__diode_pw2nd_11v0 area=2e11 perim=4e6
.ends


* expanding   symbol:  level_shifter_xd.sym # of pins=8
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/level_shifter_xd.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ht_ip__hsxo_cpz1/xschem/level_shifter_xd.sch
.subckt level_shifter_xd AVDD LO_B DVDD LO HI AVSS DVSS HI_B
*.PININFO DVDD:B DVSS:B AVDD:B AVSS:B LO:I LO_B:O HI:O HI_B:O
XM18 LO_B LO DVSS DVSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 m=1
XM21 HI_B LO AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM25 HI_B HI AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM27 LO_B LO DVDD DVDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 m=1
XM1 HI HI_B AVDD AVDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
XM2 HI LO_B AVSS AVSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1 nf=1 m=1
.ends

.end
